US04564476
a. 2,2-Dimethyl-3-(3-phenyl-2-propenoxy)propanol
In a dry three-neck flask under an atmosphere of N2 was placed 14.4 g (0.6 mole) of NaH and 100 ml of DMF. The mixture was stirred and a solution of 52.1 g (0.5 mole) of 2,2-dimethylpropandiol in 75 ml of DMF was added dropwise. Stirring was continued until the gas evolution ceased, then a solution of 91.57 g (0.6 mole) of 3-phenyl-2-propenyl chloride in 50 ml of DMF was added. The reaction mixture was stirred at room temperature for two days, then poured into 500 ml of ice and water. The aqueous solution was extracted with three 300 ml portions of ethyl ether. The organic layers were combined and washed with H2O, saturated NaCl solution, and then dried over MgSO4. The solvent was removed on a rotary evaporator to give a brick red liquid. Kugelrohr distillation gave the title compound, bp 100°-110°/0.025-0.005 mm Hg. The product was a mixture of cis and trans isomers.

reactant | NaH | 0.6 mole, 14.4 g | [H-].[Na+]
reactant | 2,2-dimethylpropandiol | 0.5 mole, 52.1 g | CC(C(O)O)(C)C | C5H12O2
reactant | 3-phenyl-2-propenyl chloride | 0.6 mole, 91.57 g | C1(=CC=CC=C1)C=CCCl | C9H9Cl
reactant | water | O | H2O
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 2,2-Dimethyl-3-(3-phenyl-2-propenoxy)propanol | CC(CO)(COCC=CC1=CC=CC=C1)C | C14H20O2
